US07202381B2
A. {1-(4-Carbamoyl-benzyl)-2-oxo-2-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester
To a mixture of 138 mg (0.5 mmol) of 2-(4-Phenyl-1H-imidazol-2-yl)-piperidine, 215 mg (0.5 mmol) of 3-(4-Carbamoyl-phenyl)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionic acid, 135 mg (1.0 mmol) of hydroxybenzotriazole hydrate, 115 mg (0.6 mmol) of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride was added 2 mL of dimethylformamide. The resulting mixture was allowed to stir at room temperature under argon overnight. The mixture was then partitioned between ethyl acetate and water. The organic layer was separated, dried over MgSO4 and concentrated to a yellow oil which was used for the next step without further purification.

reactant | 2-(4-Phenyl-1H-imidazol-2-yl)-piperidine | 0.5 mmol, 138 mg | C1(=CC=CC=C1)C=1N=C(NC1)C1NCCCC1 | C14H17N3
reactant | 3-(4-Carbamoyl-phenyl)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-propionic acid | 0.5 mmol, 215 mg | C(N)(=O)C1=CC=C(C=C1)CC(C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C25H22N2O5
reactant | hydroxybenzotriazole hydrate | 1.0 mmol, 135 mg | O.OC1=CC=CC=2NN=NC21
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.6 mmol, 115 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | {1-(4-Carbamoyl-benzyl)-2-oxo-2-[2-(4-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-ethyl}-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC(C(N1C(CCCC1)C=1NC=C(N1)C1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(N)=O)=O | C39H37N5O4
